US06162799
2-Hydroxy-3(6'-trimethylsilylhexyl)-1,4-naphthoquinone (337 mg, 1.02 mmol), prepared from 2-benzoyloxy-1,4-naphthoquinone and trimethylsilylheptanoic acid by the method of Example 1 followed by the method of Example 2, was dissolved in dioxane (2.5 ml) under nitrogen. Sodium carbonate (120 mg) in water (2.5 ml) was added followed by an excess of 30% (w/v) hydrogen peroxide (200 μl). The mixture was heated at 70° C. for 40 minutes during which time the reaction mixture turned from red to colourless. The reaction mixture was allowed to cool and 20% (w/v) copper sulphate solution (100 μl) was added and the solution stirred until bubbling ceased. 25% (w/v) sodium hydroxide solution (2 ml) and 20% (w/v) copper sulphate solution (5 ml) were then added and the reaction mixture heated at 70° C. for 30 minutes. The mixture was allowed to cool and acidified to pH 2 with 1N hydrochloric acid. The product was extracted into diethyl ether and the ether extract was then washed with brine, dried over anhydrous magnesium sulphate and concentrated in vacuo. The crude material was chromatographed using 5% diethyl ether/hexane as eluent to give 2-hydroxy-3(5'-trimethylsilylpentyl)-1,4-naphthoquinone (202 mg) which was recrystallised from hexane, m. pt. 73-75° C. NMR peaks at: 184.6, 181.4, 153.0, 134.8, 132.9, 132.7, 129.4, 126.7, 126.0, 124.8; 33.6, 27.9, 33.7, 23.2, 16.5; -1.7.

reactant | 2-Hydroxy-3(6'-trimethylsilylhexyl)-1,4-naphthoquinone | 1.02 mmol, 337 mg | OC=1C(C2=CC=CC=C2C(C1CCCCCC[Si](C)(C)C)=O)=O | C19H26O3Si
reactant | 2-benzoyloxy-1,4-naphthoquinone | C(C1=CC=CC=C1)(=O)OC=1C(C2=CC=CC=C2C(C1)=O)=O | C17H10O4
reactant | trimethylsilylheptanoic acid | C[Si](C)(C)C(C(=O)O)CCCCC | C10H22O2Si
reactant | Sodium carbonate | 120 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 200 μl | OO | H2O2
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
catalyst | copper sulphate | 100 μl | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-hydroxy-3(5'-trimethylsilylpentyl)-1,4-naphthoquinone | 202 mg | OC=1C(C2=CC=CC=C2C(C1CCCCC[Si](C)(C)C)=O)=O | C18H24O3Si
